US06331640B1
N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-(4-dimethylaminobenzoyl)amino-L-alanine;
N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]-amino]carbonyl]benzoyl]-3-(3,5-dinitrobenzoyl)amino-L-alanine; N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-(2-nitrobenzoyl)amino-L-alanine; N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-(3-nitrobenzoyl)amino-L-alanine; N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-(4-nitrobenzoyl)amino-L-alanine),

reactant | N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]-amino]carbonyl]benzoyl]-3-(3,5-dinitrobenzoyl)amino-L-alanine | ClC1=C(C(=O)N[C@@H](CNC(C2=CC(=CC(=C2)[N+](=O)[O-])[N+](=O)[O-])=O)C(=O)O)C=CC(=C1)C(=O)NCC1=CC(=CC=C1)O | C25H20ClN5O10
reactant | N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-(2-nitrobenzoyl)amino-L-alanine | ClC1=C(C(=O)N[C@@H](CNC(C2=C(C=CC=C2)[N+](=O)[O-])=O)C(=O)O)C=CC(=C1)C(=O)NCC1=CC(=CC=C1)O | C25H21ClN4O8
reactant | N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-(3-nitrobenzoyl)amino-L-alanine | ClC1=C(C(=O)N[C@@H](CNC(C2=CC(=CC=C2)[N+](=O)[O-])=O)C(=O)O)C=CC(=C1)C(=O)NCC1=CC(=CC=C1)O | C25H21ClN4O8
reactant | N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-(4-nitrobenzoyl)amino-L-alanine | ClC1=C(C(=O)N[C@@H](CNC(C2=CC=C(C=C2)[N+](=O)[O-])=O)C(=O)O)C=CC(=C1)C(=O)NCC1=CC(=CC=C1)O | C25H21ClN4O8
product | N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-(4-dimethylaminobenzoyl)amino-L-alanine | ClC1=C(C(=O)N[C@@H](CNC(C2=CC=C(C=C2)N(C)C)=O)C(=O)O)C=CC(=C1)C(=O)NCC1=CC(=CC=C1)O | C27H27ClN4O6
